* Z:\home\acooper\local\projects\pico_dev_meter\pico_dm_final.asc
* Generated by LTspice 26.0.0 for Windows.
X§U1 N006 N003 Vdd 0 ADC LT1677 ;§pnba In+)In-)V+)V-)OUT
R1 ADC N003 85k
V2 N008 0 SINE(1.1v .15V 1500) AC .4
X§U3 N005 N002 Vdd 0 N002 LT1677 ;§pnba In+)In-)V+)V-)OUT
R6 N005 N001 10k
V3 N007 0 1.1v
R2 N004 N008 1000
R7 N003 N002 10k
R3 N001 N004 9.1k
V1 N006 0 1.175v
C1 N005 0 500pf
C2 N002 N001 1nf
V4 Vdd 0 3.27v
.tran 20ms
* .ac oct 500 10 1000000
* Library below included based on ModelFile attribute of instance X§U1, X§U3 (C:\users\acooper\AppData\Local\LTspice\lib\sym\OpAmps\LT1677.asy)
.lib LTC.lib
.backanno
.end
